US04167570
6,11-Dihydro-2,4,6,8,9-pentamethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
A mixture consisting of 6.7 gm of 6,11-dihydro-2,4,8,9-tetramethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 150 ml of dimethyl formamide and 1.4 gm of 50% sodium hydride in mineral oil was stirred at 50° C. in a nitrogen atmosphere for 30 minutes. Thereafter, a solution of 7.1 gm of methyl iodide in 30 ml of dimethyl formamide was added dropwise at room temperature. The resulting mixture was heated on an oil bath at 120° C. for 1 hour, and was then evaporated in vacuo. The residue was admixed with water, the aqueous mixture was made alkaline with ammonia, and it was then extracted with chloroform. After separation of the 2,4,6,8,9,11-hexamethyl compound which had simultaneously formed in a silica gel column, the product was recrystallized from petroleum ether (b.p. 100°-140° C.), yielding 63% of theory of the compound named in the heading, which had a melting point of 225°-227° C.

reactant | 6,11-dihydro-2,4,8,9-tetramethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 6.7 gm | CC=1C=C(C2=C(NC3=C(NC2=O)C=C(C(=C3)C)C)N1)C | C16H17N3O
reactant | sodium hydride | 1.4 gm | [H-].[Na+]
reactant | methyl iodide | 7.1 gm | CI | CH3I
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
product | 6,11-Dihydro-2,4,6,8,9-pentamethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | CC=1C=C(C2=C(NC3=C(N(C2=O)C)C=C(C(=C3)C)C)N1)C | C17H19N3O
